* C:\Users\Jimbles\ScouseTom\src\schematics\Debug_Phantom_V2\LT Spice model\Resistor Phantom.asc
R1 Ch1 con1 {R1}
R2 Ch2 N001 {R1}
R3 Ch3 N002 {R1}
R4 Ch4 N003 {R1}
R5 Ch5 N004 {R1}
R6 Ch6 N005 {R1}
R7 Ch7 N006 {R1}
R8 Ch8 N007 {R1}
R9 Ch9 N008 {R1}
R10 Ch10 N009 {R1}
R11 Ch11 N010 {R1}
R12 Ch12 N011 {R1}
R13 Ch13 N012 {R1}
R14 Ch14 N013 {R1}
R15 Ch15 N014 {R1}
R16 Ch16 N015 {R1}
R17 Ch17 N016 {R1}
R18 Ch18 N017 {R1}
R19 Ch19 N018 {R1}
R20 Ch20 N019 {R1}
R21 Ch21 N020 {R1}
R22 Ch22 N021 {R1}
R23 Ch23 N022 {R1}
R24 Ch24 N023 {R1}
R25 Ch25 N024 {R1}
R26 Ch26 N025 {R1}
R27 Ch27 N026 {R1}
R28 Ch28 N027 {R1}
R29 Ch29 N028 {R1}
R30 Ch30 N029 {R1}
R31 Ch31 N030 {R1}
R32 Ch32 N031 {R1}
R33 N001 con1 {R2}
R34 N002 N001 {R2}
R35 N003 N002 {R2}
R36 N004 N003 {R2}
R37 N005 N004 {R2}
R38 N006 N005 {R2}
R39 N007 N006 {R2}
R40 N008 N007 {R2}
R41 N009 N008 {R2}
R42 N010 N009 {R2}
R43 N011 N010 {R2}
R44 N012 N011 {R2}
R45 N013 N012 {R2}
R46 N014 N013 {R2}
R47 N015 N014 {R2}
R48 N016 N015 {R2}
R49 N017 N016 {R2}
R50 N018 N017 {R2}
R51 N019 N018 {R2}
R52 N020 N019 {R2}
R53 N021 N020 {R2}
R54 N022 N021 {R2}
R55 N023 N022 {R2}
R56 N024 N023 {R2}
R57 N025 N024 {R2}
R58 N026 N025 {R2}
R59 N027 N026 {R2}
R60 N028 N027 {R2}
R61 N029 N028 {R2}
R62 N030 N029 {R2}
R63 N031 N030 {R2}
R64 con1 N031 {R2}
R65 con1 con2 {R3}
R66 N001 N032 {R3}
R67 N002 N033 {R3}
R68 N003 N034 {R3}
R69 N004 N035 {R3}
R70 N005 N036 {R3}
R71 N006 N037 {R3}
R72 N007 N038 {R3}
R73 N008 N039 {R3}
R74 N009 N040 {R3}
R75 N010 N041 {R3}
R76 N011 N042 {R3}
R77 N012 N043 {R3}
R78 N013 N044 {R3}
R79 N014 N045 {R3}
R80 N015 N046 {R3}
R81 N016 N047 {R3}
R82 N017 N048 {R3}
R83 N018 N049 {R3}
R84 N019 N050 {R3}
R85 N020 N051 {R3}
R86 N021 N052 {R3}
R87 N022 N053 {R3}
R88 N023 N054 {R3}
R89 N024 N055 {R3}
R90 N025 N056 {R3}
R91 N026 N057 {R3}
R92 N027 N058 {R3}
R93 N028 N059 {R3}
R94 N029 N060 {R3}
R95 N030 N061 {R3}
R96 N031 N062 {R3}
R97 N032 con2 {R4}
R98 N033 N032 {R4}
R99 N034 N033 {R4}
R100 N035 N034 {R4}
R101 N036 N035 {R4}
R102 N037 N036 {R4}
R103 N038 N037 {R4}
R104 N039 N038 {R4}
R105 N040 N039 {R4}
R106 N041 N040 {R4}
R107 N042 N041 {R4}
R108 N043 N042 {R4}
R109 N044 N043 {R4}
R110 N045 N044 {R4}
R111 N046 N045 {R4}
R112 N047 N046 {R4}
R113 N048 N047 {R4}
R114 N049 N048 {R4}
R115 N050 N049 {R4}
R116 N051 N050 {R4}
R117 N052 N051 {R4}
R118 N053 N052 {R4}
R119 N054 N053 {R4}
R120 N055 N054 {R4}
R121 N056 N055 {R4}
R122 N057 N056 {R4}
R123 N058 N057 {R4}
R124 N059 N058 {R4}
R125 N060 N059 {R4}
R126 N061 N060 {R4}
R127 N062 N061 {R4}
R128 con2 N062 {R4}
R129 con2 0 {R5}
R130 N032 0 {R5}
R131 N033 0 {R5}
R132 N034 0 {R5}
R133 N035 0 {R5}
R134 N036 0 {R5}
R135 N037 0 {R6}
R136 N038 0 {R5}
R137 N039 0 {R5}
R138 N040 0 {R5}
R139 N041 0 {R5}
R140 N042 0 {R5}
R141 N043 0 {R5}
R142 N044 0 {R5}
R143 N045 0 {R5}
R144 N046 0 {R5}
R145 N047 0 {R5}
R146 N048 0 {R5}
R147 N049 0 {R5}
R148 N050 0 {R5}
R149 N051 0 {R5}
R150 N052 0 {R5}
R151 N053 0 {R5}
R152 NC_01 0 {R5}
R153 N055 0 {R5}
R154 N056 0 {R5}
R155 N057 0 {R5}
R156 N058 0 {R5}
R157 N059 0 {R5}
R158 N060 0 {R5}
R159 N061 0 {R5}
R160 N062 0 {R5}
I1 Ch32 Ch1 SINE(0 50uA 1725)
.param R1= 1k
.param R2 = 1k
.param R3 = 3k
.param R4 = 500
.param R5=1k
.tran 3ms
.param R6 = 500
.step param R6 list 1k 990 900 500
.backanno
.end
