* C:\Users\Jimbles\ScouseTom\src\schematics\Small_CS\Sim\Howland_example.asc
V1 +V 0 +15
V2 -V 0 -10
R1 N002 N001 1K
R2 N001 IN 1K
V3 IN 0 SINE(0 1 1K)
R3 N002 N003 1K
R4 N003 0 1K
Rload N003 0 {x}
XU2 N003 N001 +V -V N002 LT1001
.tran 3m
.step param X list 1 10 100 1K
* Iout = V(in)/1K
* This example schematic is supplied for informational/educational purposes only.
.option fastaccess
.save I(Rload)
.lib LTC.lib
.backanno
.end
